US07160901B2
c. 4-[N-Acetyl-N-(2-trifluoroacetylamino-ethyl)-amino]-nitrobenzene
0.6 g (2.1 mmol) of 4-(2-trifluoroacetylamino-ethylamino)-nitrobenzene are dissolved in 10 ml of glacial acetic acid and after the addition of 2 ml (21.2 mmol) of acetic acid anhydride stirred for 5 hours at 80° C. and overnight at ambient temperature. The solvent is distilled off, the residue is made alkaline with sodium hydrogen carbonate and extracted with ethyl acetate. The combined organic extracts are dried and evaporated down.

reactant | 4-(2-trifluoroacetylamino-ethylamino)-nitrobenzene | 2.1 mmol, 0.6 g | FC(C(=O)NCCNC1=CC=C(C=C1)[N+](=O)[O-])(F)F | C10H10F3N3O3
reactant | acetic acid anhydride | 21.2 mmol, 2 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | acetic acid | 10 ml | C(C)(=O)O | C2H4O2
product | 4-[N-Acetyl-N-(2-trifluoroacetylamino-ethyl)-amino]-nitrobenzene | C(C)(=O)N(CCNC(C(F)(F)F)=O)C1=CC=C(C=C1)[N+](=O)[O-] | C12H12F3N3O4
